US06200976B1
a. 4-[(7-allyl-4-methyl-quinolin-2-yl)-oxy]-benzonitrile
6.8 g (0.02 mol) of 4-[(7-bromo-4-methyl-quinolin-2-yl)-oxy]-benzonitrile, 6.8 g (5.9 mmol) of tetrakis-(triphenylphosphine)-palladium (0) and 6.8 ml (0.022 mol) of allyltributyltin are refluxed in 50 ml toluene under a nitrogen atmosphere for 2 hours. The toluene is distilled off, the residue triturated with ether and suction filtered. The mother liquor is combined with silica gel and evaporated down. Then the mixture is chromatographed on silica gel and eluted with cyclohexane/ethyl acetate (95:5 and 9:1). The desired fractions are combined and evaporated down.

reactant | 4-[(7-bromo-4-methyl-quinolin-2-yl)-oxy]-benzonitrile | 0.02 mol, 6.8 g | BrC1=CC=C2C(=CC(=NC2=C1)OC1=CC=C(C#N)C=C1)C | C17H11BrN2O
reactant | allyltributyltin | 0.022 mol, 6.8 ml | C(C=C)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis-(triphenylphosphine)-palladium (0) | 5.9 mmol, 6.8 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-[(7-allyl-4-methyl-quinolin-2-yl)-oxy]-benzonitrile | C(C=C)C1=CC=C2C(=CC(=NC2=C1)OC1=CC=C(C#N)C=C1)C | C20H16N2O
